US09193721B2
The mixture of 1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanone (0.2 g, 0.7 mmol) in methanol (7.0 mL) and the ammonium acetate (0.5340 g, 6.928 mmol) was heated at 65° C. for 1 hour, all solids dissolved. The sodium cyanoborohydride (0.1306 g, 2.078 mmol) was added and the solution was heated at 65° C. overnight. The reaction was incomplete, additional ammonium acetate and sodium cyanoborohydride were added and the reaction was stirred for another 18 hours. This was allowed to cool to room temperature, concentrated in vacuo, taken up in ethyl acetate and washed with a small amount of water, brine, dried over magnesium sulfate and concentrated to give 1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanamine (0.18 g, 90%) as a viscous oil. LCMS calculated for C15H14ClFN3 (M+H)+: m/z=290.1. found: 289.9.

reactant | 1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanone | 0.7 mmol, 0.2 g | ClC=1C=2N(C(=C(C1)C(C)=O)C1=CC(=CC=C1)F)N=CC2 | C15H10ClFN2O
reactant | ammonium acetate | 6.928 mmol, 0.5340 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2.078 mmol, 0.1306 g | C(#N)[BH3-].[Na+]
solvent | methanol | 7.0 mL | CO | CH4O
product | 1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanamine | 0.18 g, 90% | ClC=1C=2N(C(=C(C1)C(C)N)C1=CC(=CC=C1)F)N=CC2 | C15H13ClFN3
